US06225320B1
3-Bromo-2-chloro-5-trifluoroacetamidopyridine
3-Bromo-2-chloro-5-nitropyridine (0.51 g, 2.15 mmol) and trifluoroacetic anhydride (0.25 ml) in ethyl acetate (5.0 ml) were hydrogenated over platinum oxide (101 mg) at 10 psi hydrogen for 30 mins, then filtered. The filtrate was treated with N,N′-diisopropylethylamine (0.25 ml) and stirred for 30 mins., before being concentrated. The residue was purified by silica chromatography to give the product as an orange solid (0.53 g).

reactant | 3-Bromo-2-chloro-5-nitropyridine | 2.15 mmol, 0.51 g | BrC=1C(=NC=C(C1)[N+](=O)[O-])Cl | C5H2BrClN2O2
reactant | trifluoroacetic anhydride | 0.25 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 5.0 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 101 mg | [Pt]=O
product | 3-Bromo-2-chloro-5-trifluoroacetamidopyridine | 0.53 g | BrC=1C(=NC=C(C1)NC(C(F)(F)F)=O)Cl | C7H3BrClF3N2O
